US07642220B2
12. Preparation of 6-amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methoxypyrimidine-4-carboxylic acid methyl ester (Compound 1)
6-Amino-2-chloro-5-methoxypyrimidine-4-carboxylic acid methyl ester (0.2 g, 0.9 mmol), 4-chloro-2-fluoro-3-methoxyphenylboronic acid (0.29 g, 1.4 mmol), bis(triphenylphosphine)palladium(II) dichloride (65 mg, 0.1 mmol), and cesium fluoride (0.28 g, 1.9 mmol) were combined in 1 mL of 1,2-dimethoxyethane and 1 mL of water. The reaction mixture was heated in a CEM microwave at 100° C. for 15 min (other temperature/time pairs used in the subsequent examples were 110° C. for 15 min and 150° C. for 5 min). The cooled reaction mixture was diluted with ethyl acetate, washed with water, washed with brine, dried and concentrated. The product was purified by flash chromatography on silica gel (hexane/ethyl acetate gradient) to yield the title compound (162 mg, 51.1% yield): mp 155-158° C.; 1H NMR (CDCl3): δ 7.58 (dd, 1H), 7.20 (dd, 1H), 5.56 (br s, 2H) 4.00 (s, 3H), 3.99 (d, 3H), 3.94 (s, 3H).

reactant | 6-Amino-2-chloro-5-methoxypyrimidine-4-carboxylic acid methyl ester | 0.9 mmol, 0.2 g | COC(=O)C1=NC(=NC(=C1OC)N)Cl | C7H8ClN3O3
reactant | 4-chloro-2-fluoro-3-methoxyphenylboronic acid | 1.4 mmol, 0.29 g | ClC1=C(C(=C(C=C1)B(O)O)F)OC | C7H7BClFO3
reactant | cesium fluoride | 1.9 mmol, 0.28 g | [F-].[Cs+]
solvent | 1,2-dimethoxyethane | 1 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.1 mmol, 65 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methoxypyrimidine-4-carboxylic acid methyl ester | 162 mg, 51.1% yield | COC(=O)C1=NC(=NC(=C1OC)N)C1=C(C(=C(C=C1)Cl)OC)F | C14H13ClFN3O4
